US09334269B2
To a solution of 2,4-dichloro-1,3,5-triazine (0.300 g, 2.000 mmol) in DMF (6670 μL) was added N-ethyl-N-isopropylpropan-2-amine (1048 μL, 6.000 mmol). The reaction vessel was cooled in an ice-water bath prior to the addition of 3-amino-N-methylbenzamide (300 mg, 2.000 mmol). The reaction mixture was stirred for 3 h at 0° C. at which time LC-MS revealed complete conversion to the desired chloro-triazine intermediate. To this yellow solution was added 3-aminopropan-1-ol (150 mg, 2.000 mmol). The reaction mixture was allowed to stir and warm slowly to RT over 18 h. Solids had precipitated out of the solution. The solid was filtered off, washed with water, and very little methanol to obtain 3-(4-(3-hydroxypropylamino)-1,3,5-triazin-2-ylamino)-N-methylbenzamide (516 mg, 1.707 mmol, 85%) as a white solid.

reactant | 2,4-dichloro-1,3,5-triazine | 2.000 mmol, 0.300 g | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | N-ethyl-N-isopropylpropan-2-amine | 6.000 mmol, 1048 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-amino-N-methylbenzamide | 2.000 mmol, 300 mg | NC=1C=C(C(=O)NC)C=CC1 | C8H10N2O
reactant | chloro-triazine | ClC1=NN=NC=C1 | C3H2ClN3
reactant | 3-aminopropan-1-ol | 2.000 mmol, 150 mg | NCCCO | C3H9NO
solvent | DMF | 6670 μL | CN(C)C=O | C3H7NO
product | 3-(4-(3-hydroxypropylamino)-1,3,5-triazin-2-ylamino)-N-methylbenzamide | 1.707 mmol, 516 mg, 85% | OCCCNC1=NC(=NC=N1)NC=1C=C(C(=O)NC)C=CC1 | C14H18N6O2
